US09403808B2
(S)-3-Cyclopropyl-2-[(5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-propionic acid methyl ester
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and (αS)-α-amino-cyclopropanepropanoic acid methyl ester hydrochloride (1:1) (CAN 206438-31-5) as starting materials, and isolated (80 mg, 75%) as yellow oil; LC-MS (UV peak area, ESI) 100%, 360.1920 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (αS)-α-amino-cyclopropanepropanoic acid methyl ester hydrochloride | Cl.COC([C@H](CC1CC1)N)=O
product | (S)-3-Cyclopropyl-2-[(5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-propionic acid methyl ester | COC([C@H](CC1CC1)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1)=O | C19H25N3O4
